US06891039B2
2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-(morpholino)imidazo[4,5-b]pyridine
2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-(chloro)imidazo[4,5-b]pyridine (100 mg; 0.25 mmol), R-(+)-BINAP (10 mg; 0.016 mmol), Pd2(dba)3 (22 mg; 0.024 mmol) are suspended in xylene (16 ml), morpholine (0.43 ml; 4.9 mmol) is added, followed by NaOtBu (47 mg; 0.49 mmol) and heated to 160° C. for 10 min. under argon. The reaction mixture is poured on water (100 ml) containing HOAc (2 ml) and extracted with TBME three times. The combined organic phases are washed with 2N Na2CO3, dried over Na2SO4 and evaporated to dryness. Purification via SiO2 chromatography (TBME/hexane 7:3 to 10:0) and recrystallisation from TBME yields the title compound as colorless crystals (22 mg: 19%).

reactant | 2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-(chloro)imidazo[4,5-b]pyridine | 0.25 mmol, 100 mg | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)Cl)N1)C1=NC(=NC=C1)NC1CCCC1 | C21H18ClFN6
reactant | morpholine | 4.9 mmol, 0.43 ml | N1CCOCC1 | C4H9NO
reactant | NaOtBu | 0.49 mmol, 47 mg | CC(C)(C)[O-].[Na+]
reactant | HOAc | 2 ml | CC(=O)O | C2H4O2
solvent | xylene | 16 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 0.024 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-Fluorophenyl)-1-(2-cyclopentylamino-4-pyrimidinyl)-5-(morpholino)imidazo[4,5-b]pyridine | 22 mg, 19% | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)N2CCOCC2)N1)C1=NC(=NC=C1)NC1CCCC1 | C25H26FN7O
